US05958910
A mixture of 0.5 g of 4-(3,4-dimethoxy-phenyl)-thiazol-2-ylamine hydrobromide with 0.33 g of p-toluenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored solution was poured into 50 ml of 1N hydrochloric acid and extracted three times with 50 ml of methylene chloride each time. The organic extracts were combined, dried with magnesium sulphate and concentrated. The residue was chromatographed on 35 g of Kieselgel 60 with diethyl ether as the eluent. The product-containing fractions were concentrated, dissolved in 40 ml of 50% ethanol by the addition of a small amount of 2N sodium hydroxide solution and precipitated with 2N hydrochloric acid at pH 6. 0.4 g of N-[4-(3,4-dimethoxy-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide was obtained as colorless crystals.

reactant | 4-(3,4-dimethoxy-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.COC=1C=C(C=CC1OC)C=1N=C(SC1)N
reactant | p-toluenesulfonyl chloride | 0.33 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(3,4-dimethoxy-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 0.4 g | COC=1C=C(C=CC1OC)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C18H18N2O4S2
